US07989439B2
A solution of 1.61 g of 4-(3-nitrobenzylamino)-1H-pyrazole-3-carboxylic acid 2,4-dimethoxybenzylamide, 1.25 g of paraformaldehyde and 0.94 g of anhydrous magnesium sulfate in 70 ml of glacial acetic acid is stirred at room temperature for 4 hours. 1.23 g of sodium cyanoborohydride are then added portionwise to this solution. The reaction medium is stirred for 2 hours at room temperature, and then poured onto 300 ml of aqueous 5N sodium hydroxide solution and 120 g of crushed ice, the pH being adjusted to 11. 300 ml of saturated sodium chloride solution are then added. This solution is filtered and the solid is washed three times with 60 ml of distilled water. The solid thus collected is air-dried. 1.51 g of 4-[methyl(3-nitrobenzyl)amino]-1H-pyrazole-3-carboxylic acid 2,4-dimethoxybenzylamide are obtained in the form of a pale yellow solid. ([M+H]+): 426). RT: 3.87 min (Method A).

reactant | 4-(3-nitrobenzylamino)-1H-pyrazole-3-carboxylic acid 2,4-dimethoxybenzylamide | 1.61 g | COC1=C(CNC(=O)C2=NNC=C2NCC2=CC(=CC=C2)[N+](=O)[O-])C=CC(=C1)OC | C20H21N5O5
reactant | paraformaldehyde | 1.25 g | C=O | CH2O
reactant | magnesium sulfate | 0.94 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium cyanoborohydride | 1.23 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | sodium chloride | 300 ml | [Cl-].[Na+]
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 4-[methyl(3-nitrobenzyl)amino]-1H-pyrazole-3-carboxylic acid 2,4-dimethoxybenzylamide | 1.51 g | COC1=C(CNC(=O)C2=NNC=C2N(CC2=CC(=CC=C2)[N+](=O)[O-])C)C=CC(=C1)OC | C21H23N5O5
